* C:\Users\vbogd\OneDrive\Documents\rct_tower_battery\simulations\rct_battery.asc
V1 12v_l 0 PWL(0 12.6 86400 12.05 87200 12.05 87201 0)
V2 12v_r 0 PWL(86400 0 86401 12.6)
D1 12v_l d_l RB238T-40NZ
D2 12v_r d_r RB238T-40NZ
S1 d_l v_dc N001 0 sw1
S2 d_r v_dc N002 0 sw1
I2 v_dc 0 25
V3 N001 0 PWL(86440 1 86700 0)
V4 N002 0 PWL(86400 0 86420 1)
D3 12v_l d_l RB238T-40NZ
D4 12v_r d_r RB238T-40NZ
.model D D
.lib C:\Users\vbogd\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 90000 0 .1
.model sw1 SW(Ron=1n Roff=1Meg Vt=.01 Vh= 0)
.temp 125
.backanno
.end
